US04022901
5-(4-aminophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole
A solution of 2.5 g (0.01 mole) of 5-(4-nitrophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole in 200 ml of tetrahydrofuran is added slowly to a solution of NaBH2S3 which is prepared by stirring 0.36 g of NaBH4 and 0.96 g of sulfur in 50 ml of tetrahydrofuran for 0.5 hour. The reaction mixture is then refluxed for 24 hours. The mixture is filtered, cooled, and the solvent is evaporated in vacuo to give 1.0 g (42% yield) of the title compound.

reactant | 5-(4-nitrophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole | 0.01 mole, 2.5 g | [N+](=O)([O-])C1=CC=C(C=C1)C1=NC(=NO1)C1=NC=CC=C1 | C13H8N4O3
reactant | NaBH4 | 0.36 g | [BH4-].[Na+]
reactant | sulfur | 0.96 g | [S] | S
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-(4-aminophenyl)-3-(2-pyridyl)-1,2,4-oxadiazole | 1.0 g, 42% yield | NC1=CC=C(C=C1)C1=NC(=NO1)C1=NC=CC=C1 | C13H10N4O
